* FILE: MMI_INVB.sp


* SPICE netlist for "MMI_INVB" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_INVB in out 
M_0 out in vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
M_1_1 out in gnd gnd n W='0.77*1u' L=ln_min ad='arean(0.77,sdd)' 
+ as='arean(0.77,sdd)' pd='perin(0.77,sdd)' ps='perin(0.77,sdd)'
*.ENDS	$ MMI_INVB

